US07649110B2
3-(4-Hydroxyphenyl)-3-(1H-pyrrol-1-yl)propanoic acid (55.1).
At 100° C., 2,5-dimethoxytetrahydrofuran (8.5 mmol) was added to a mixture of 3-amino-3-(4-hydroxyphenyl)propanoic acid (7.7 mmol) and sodium acetate (46 mmol) in acetic acid (34 mL). After stirring for 1 h, acetic acid was removed under reduced pressure. The residue was extracted with ethyl acetate (300 mL). The organic layer was washed with brine and dried over anhydrous Na2SO4 and concentrated. The residue was purified via column chromatography (10% methanol in dichloromethane) to compound 55.1. LC-MS (neg.) m/e: 230.2 (M−H).

reactant | 2,5-dimethoxytetrahydrofuran | 8.5 mmol | COC1OC(CC1)OC | C6H12O3
reactant | 3-amino-3-(4-hydroxyphenyl)propanoic acid | 7.7 mmol | NC(CC(=O)O)C1=CC=C(C=C1)O | C9H11NO3
reactant | sodium acetate | 46 mmol | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 34 mL | C(C)(=O)O | C2H4O2
product | 3-(4-Hydroxyphenyl)-3-(1H-pyrrol-1-yl)propanoic acid | OC1=CC=C(C=C1)C(CC(=O)O)N1C=CC=C1 | C13H13NO3
